US04159981
3.68 g of Z-Thr(tBu)-OH.
dicyclohexylammonium salt dissolved in ethyl acetate are three times shaken with dilute aqueous citric acid solution and three times with saturated aqueous sodium chloride solution, and the solution is dried over sodium sulphate evaporated. The water-clear oil resulting therefrom is stirred with 3.34 g of H-Gln-Asp(OtBu)-Phe-OCH3.HCl in 40 ml of methylene chloride, 0.9 ml of triethylamine are added and a solution of 1.54 g of dicyclohexylcarbodiimide in 10 ml of methylene chloride is added dropwise. After rinsing this down with 10 ml of methylene chloride the suspension is stirred for 14 hours at room temperature. It is then placed for 2 hours in a refrigerator and the solid precipitate is filtered off, washed with a little methylene chloride, and the filtrate extracted by shaking with a large amount of ethyl acetate as described in 19. The amorphous evaporation residue is triturated with ether-hexane (1:1) and dried.

reactant | dicyclohexylammonium salt | CCCCC(C(CC[C@H]1[C@@H](CC(=O)[C@@H]1CCCCCCC(=O)O)O)O)(F)F.C1CCC(CC1)NC2CCCCC2
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | sodium chloride | [Cl-].[Na+]
reactant | H-Gln-Asp(OtBu)-Phe-OCH3.HCl | 3.34 g | N[C@@H](CCC(N)=O)C(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OC.Cl
reactant | dicyclohexylcarbodiimide | 1.54 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 0.9 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | Z-Thr(tBu)-OH | N([C@@H]([C@H](OC(C)(C)C)C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C16H23NO5
